US07696214B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-[(2R)-2,3-epoxypropoxy]-tetrahydropyran-4-yloxyquinazoline
Caesium fluoride (0.46 g) and (2R)-(−)-glycidyl tosylate (0.275 g) were added in turn a solution of 4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline (0.416 g) in DMF (5 ml) and the reaction mixture was stirred and heated to 60° C. for 2 hours and to 70° C. for a further 1.5 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic layer was washed with water and with brine, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 49:1 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound (0.36 g); NMR Spectrum: (CDCl3) 1.9-2.1 (m, 2H), 2.2-2.3 (m, 2H), 2.8 (m, 1H), 2.98 (m, 1H), 3.42 (m, 1H), 3.6-3.7 (m, 2H), 3.954.1 (m, 3H), 4.45 (m, 1H), 4.8 (m, 1H), 6.02 (s, 2H), 6.59 (m, 12H), 6.72 (d, 1H), 6.81 (d, 1H), 6.97 (d, 1H), 8.5 (s, 1H), 9.27 (s, 1H); Mass Spectrum: M+H+ 472 and 474.

reactant | Caesium fluoride | 0.46 g | [F-].[Cs+]
reactant | (2R)-(−)-glycidyl tosylate | 0.275 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]2CO2 | C10H12O4S
reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline | 0.416 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCOCC1)F)OCO2 | C20H17ClFN3O4
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-[(2R)-2,3-epoxypropoxy]-tetrahydropyran-4-yloxyquinazoline | 0.36 g | ClC1=CC=C2C(=C1NC1=NC(=NC3=CC(=CC=C13)OC[C@H]1CO1)OC1CCOCC1)OCO2 | C23H22ClN3O6
